US04654336
9-Fluoro-3a,4,5,10b-tetrahydro-2-methyl-3a,6-ethano-1,3-dioxolo-[4,5-d][1]benzazepine
To a solution of 3.7 g of 1,4-ethano-b 4,5-dihydroxy-7-fluoro-2,3,4,5-tetrahydro-1H-1-benzazepine in 50 ml of dry tetrahydrofuran, 2.2 ml of boron trifluoride etherate was added dropwise, with stirring, at room temperature, under nitrogen. To the mixture, 5 ml of acetaldehyde was added. After stirring for ca. 16 hrs, 1.2 ml of freshly distilled boron trifluoride etherate and of ca. 2 ml of acetaldehyde diethylacetal were added, and the solution was stirred for ca. two hrs at 40° C. The reaction mixture was then stirred into a mixture of 200 ml of saturated sodium bicarbonate solution and a few ml of saturated potassium carbonate solution. Extraction with ethyl ether (twice) and ethyl acetate, washing of the combined organic extracts with brine, drying over anhydrous potassium carbonate and evaporation of the solvent provided 4.8 g of a semi-solid. Purification by means of flash chromatography (silica gel, 1-3% methanol-dichloromethane) followed by recrystallization from hexane-diisopropyl ether gave 1.8 g (44%) of product, mp 103°- 107° C.

reactant | 4,5-dihydroxy-7-fluoro-2,3,4,5-tetrahydro-1H-1-benzazepine | 3.7 g | OC1CCNC2=C(C1O)C=C(C=C2)F | C10H12FNO2
reactant | acetaldehyde | 5 ml | C(C)=O | C2H4O
reactant | acetaldehyde diethylacetal | ca. 2 ml | C(C)OC(C)OCC | C6H14O2
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | boron trifluoride etherate | 2.2 ml | B(F)(F)F.CCOCC
product | 9-Fluoro-3a,4,5,10b-tetrahydro-2-methyl-3a,6-ethano-1,3-dioxolo-[4,5-d][1]benzazepine | 4.8 g | FC=1C=CC2=C(C3C4(CCN2CC4)OC(O3)C)C1 | C14H16FNO2
